US05885990
Preparation of 6-amidino-1-methoxycarbonylmethyl-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoate.
60 Milliliters of 20% hydrous pyridine was added to 2.8 g of 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoic acid.methanesulfonate, 3.0 g of 6-amidino-1-methoxycarbonylmethyl-2-naphthol.methanesulfonate, 4.19 g of DCC and 103.4 mg of DMAP, followed by stirring for 2 hours under cooling with ice and 48 hours at room temperature. The precipitate was filtered and the filtrate was concentrated under reduced pressure. To the residue was added 15 ml of DMF. The solution was added dropwise to a mixed liquid of 500 ml of acetone and 300 ml of ether, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using methyl ethyl ketone-water-acetic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. To the residue were added 40 ml of methanol and 0.83 ml of methanesulfonic acid. The resulting solution was added dropwise to 400 ml of acetone, followed by stirring for 30 minutes under cooling with ice. Then, the precipitate was collected by filtration to obtain 1.4 g of the desired product.

reactant | 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoic acid | 2.8 g | N1C(=NCC1)NC1=CC=C(C(=O)O)C=C1 | C10H11N3O2
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | 6-amidino-1-methoxycarbonylmethyl-2-naphthol | 3.0 g | C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(=O)OC)O | C14H14N2O3
reactant | DCC | 4.19 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 103.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methyl ethyl ketone water acetic acid | C(C)C(=O)C.O.C(C)(=O)O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-amidino-1-methoxycarbonylmethyl-2-naphthyl 4-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoate | 1.4 g | N1C(=NCC1)NC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(=O)OC)C=C1 | C24H23N5O4
